US09328106B2
Intermediate 147 (R)-2-(2,6-difluoro-4-((tetrahydrofuran-3-yl)oxy)phenyl)thiazole-4-carboxylic acid
To a solution of methyl 2-(2,6-difluoro-4-hydroxy-phenyl)thiazole-4-carboxylate (207 mg, 0.763 mmol) and (R)-3-hydroxytetrahydrofuran (3 equiv., 206 mg) in tetrahydrofuran (5 mL) was added triphenylphosphine (3 equiv., 600 mg) and diisopropyl azodicarboxylate (3 equiv., 0.45 mL) The mixture was stirred at RT for 2 days. The mixture was concentrated and partitioned between EtOAc and water. The organic layer was washed with sat. NaHCO3, brine, dried over Na2SO4 and concentrated. This residue was diluted with THF (3 mL) and water (1 mL) and LiOH (36 mg) was added. After stirring at rt for 2.5 hours, the reaction was neutralized with 1 N HCl(aq), diluted with EtOAc and washed with brine. The organic extracts were dried (Na2SO4) and concentrated in vacuo to provide the title compound, contaminated with triphenylphosphine oxide, and other by-products, which was used without further purification.

reactant | methyl 2-(2,6-difluoro-4-hydroxy-phenyl)thiazole-4-carboxylate | 0.763 mmol, 207 mg | FC1=C(C(=CC(=C1)O)F)C=1SC=C(N1)C(=O)OC | C11H7F2NO3S
reactant | (R)-3-hydroxytetrahydrofuran | 206 mg, 3 equiv. | O[C@H]1COCC1 | C4H8O2
reactant | triphenylphosphine | 600 mg, 3 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.45 mL, 3 equiv. | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (R)-2-(2,6-difluoro-4-((tetrahydrofuran-3-yl)oxy)phenyl)thiazole-4-carboxylic acid | FC1=C(C(=CC(=C1)O[C@H]1COCC1)F)C=1SC=C(N1)C(=O)O | C14H11F2NO4S
